### PR TITLE
The sum of rational geometric series

### PR DESCRIPTION
**Pull request by lowasser**
Depends on #1610 .  Another step towards #1605 .

### CODE REVIEW

File: src/elementary-number-theory/strict-inequality-rational-numbers.lagda.md [hunk 1]
```diff
@@ -143,6 +144,10 @@ opaque
 irreflexive-le-ℚ : (x : ℚ) → ¬ (le-ℚ x x)
 irreflexive-le-ℚ =
   is-irreflexive-is-asymmetric le-ℚ asymmetric-le-ℚ
+
+abstract
+  nonequal-le-ℚ : {x y : ℚ} → le-ℚ x y → x ≠ y
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/strict-inequality-rational-numbers.lagda.md:149]: Keep in mind that we use two different names for nonequality, `nonequal` and `neq`. Personally I'm more in favor of using the latter, *but I guess either is fine as long as you are consistent with it.

File: src/elementary-number-theory/inequality-positive-rational-numbers.lagda.md [hunk 2]
```diff
@@ -90,3 +92,10 @@ transitive-leq-ℚ⁺ = transitive-leq-Poset poset-ℚ⁺
 antisymmetric-leq-ℚ⁺ : is-antisymmetric leq-ℚ⁺
 antisymmetric-leq-ℚ⁺ = antisymmetric-leq-Poset poset-ℚ⁺
 ```
+
+### If `x ＝ y`, `x ≤ y`
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-positive-rational-numbers.lagda.md]:
```suggestion
### If `x ＝ y` then `x ≤ y`
```

File: src/elementary-number-theory/multiplicative-group-of-rational-numbers.lagda.md [hunk 3]
```diff
@@ -191,6 +200,29 @@ invertible-diff-neq-ℚ : (a b : ℚ) → a ≠ b → ℚˣ
 invertible-diff-neq-ℚ a b a≠b = (b -ℚ a , is-invertible-diff-neq-ℚ a b a≠b)
 ```
 
+### If `|a| < b` for positive `b`, `b - a` is invertible
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/multiplicative-group-of-rational-numbers.lagda.md]:
```suggestion
### If `|a| < b` and `b` is positive then `b - a` is invertible
```

File: src/elementary-number-theory/powers-positive-rational-numbers.lagda.md [hunk 4]
```diff
@@ -253,6 +268,77 @@ abstract
...
+            λ n m≤n →
+              neighborhood-leq-dist-ℚ
+                ( δ)
+                ( rational-power-ℚ⁺ n ε)
+                ( zero-ℚ)
+                ( chain-of-inequalities
+                  rational-dist-ℚ (rational-ℚ⁺ (power-ℚ⁺ n ε)) zero-ℚ
+                  ≤ rational-abs-ℚ (rational-ℚ⁺ (power-ℚ⁺ n ε))
+                    by
+                      leq-eq-ℚ _ _ (ap rational-ℚ⁰⁺ (right-zero-law-dist-ℚ _))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/powers-positive-rational-numbers.lagda.md]:
```suggestion
                    leq-eq-ℚ _ _ (ap rational-ℚ⁰⁺ (right-zero-law-dist-ℚ _))
```

File: src/elementary-number-theory/powers-positive-rational-numbers.lagda.md [hunk 5]
```diff
@@ -253,6 +268,77 @@ abstract
...
+                  ≤ rational-ℚ⁺ (power-ℚ⁺ n ε)
+                    by
+                      leq-eq-ℚ _ _
+                        ( ap rational-ℚ⁰⁺
+                          ( abs-rational-ℚ⁰⁺ (nonnegative-ℚ⁺ (power-ℚ⁺ n ε))))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/powers-positive-rational-numbers.lagda.md]:
```suggestion
                    leq-eq-ℚ _ _
                      ( ap rational-ℚ⁰⁺
                        ( abs-rational-ℚ⁰⁺ (nonnegative-ℚ⁺ (power-ℚ⁺ n ε))))
```

File: src/elementary-number-theory/powers-positive-rational-numbers.lagda.md [hunk 6]
```diff
@@ -253,6 +268,77 @@ abstract
...
+          by leq-eq-ℚ⁺ (ap (λ x → power-ℚ⁺ x ε) (inv k+m=n))
+        ≤ rational-power-ℚ⁺ k ε *ℚ rational-power-ℚ⁺ m ε
+          by leq-eq-ℚ⁺ (distributive-power-add-ℚ⁺ k m ε)
+        ≤ rational-power-ℚ⁺ k one-ℚ⁺ *ℚ rational-power-ℚ⁺ m ε
+          by
+            preserves-leq-right-mul-ℚ⁺
+              ( power-ℚ⁺ m ε)
+              ( _)
+              ( _)
+              ( preserves-leq-power-ℚ⁺ k ε one-ℚ⁺ ε≤1)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/powers-positive-rational-numbers.lagda.md]:
```suggestion
          preserves-leq-right-mul-ℚ⁺
            ( power-ℚ⁺ m ε)
            ( _)
            ( _)
            ( preserves-leq-power-ℚ⁺ k ε one-ℚ⁺ ε≤1)
```

File: src/elementary-number-theory/powers-rational-numbers.lagda.md [hunk 7]
```diff
@@ -101,6 +107,14 @@ abstract
   power-succ-ℚ = power-succ-Monoid monoid-mul-ℚ
 ```
 
+### `0ⁿ = 0` when `1 ≤ n`
+
+```agda
+abstract
+  power-zero-ℚ : (n : ℕ) → leq-ℕ 1 n → power-ℚ n zero-ℚ ＝ zero-ℚ
+  power-zero-ℚ (succ-ℕ n) _ = power-succ-ℚ n _ ∙ right-zero-law-mul-ℚ _
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/powers-rational-numbers.lagda.md:115]: Another way to phrase this is
```agda
power-zero-succ-ℚ : (n : ℕ) → power-ℚ (succ-ℕ n) zero-ℚ ＝ zero-ℚ
```
which requires one less proof witness. I thought this was more standard?

File: src/elementary-number-theory/powers-rational-numbers.lagda.md [hunk 8]
```diff
@@ -392,6 +406,64 @@ abstract
...
+          ( metric-space-ℚ)
+          ( λ n → power-ℚ n ε)
+          ( zero-ℚ)
+          ( λ δ →
+            ( 1 ,
+              λ n 1≤n →
+                inv-tr
+                  ( λ z → neighborhood-ℚ δ z zero-ℚ)
+                  ( ap (power-ℚ n) ε=0 ∙ power-zero-ℚ n 1≤n)
+                  ( is-reflexive-neighborhood-ℚ δ zero-ℚ))))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/powers-rational-numbers.lagda.md:454]:
```suggestion
              inv-tr
                ( λ z → neighborhood-ℚ δ z zero-ℚ)
                ( ap (power-ℚ n) ε=0 ∙ power-zero-ℚ n 1≤n)
                ( is-reflexive-neighborhood-ℚ δ zero-ℚ))))
```

File: src/elementary-number-theory/powers-rational-numbers.lagda.md (hunk 7 above)
Comment (fredrik-bakke) [reply src/elementary-number-theory/powers-rational-numbers.lagda.md:115]: Never mind, I see this is the precise formulation you need.

File: src/elementary-number-theory/powers-rational-numbers.lagda.md [hunk 9]
```diff
@@ -392,6 +406,64 @@ abstract
...
+              ( is-zero-limit-sequence-ℚ)
+              ( eq-htpy
+                ( λ n →
+                  equational-reasoning
+                    rational-abs-ℚ (power-ℚ n ε)
+                    ＝ power-ℚ n (rational-abs-ℚ ε)
+                      by inv (power-rational-abs-ℚ n ε)
+                    ＝ power-ℚ n (neg-ℚ ε)
+                      by
+                        ap (power-ℚ n) (rational-abs-rational-ℚ⁻ ε⁻)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/powers-rational-numbers.lagda.md:434]:
```suggestion
                      ap (power-ℚ n) (rational-abs-rational-ℚ⁻ ε⁻)
```
